US04748240
3-[4-[4-(2-Quinolyl)-1-piperazinyl]butyl]-3-azabicyclo[3.2.1]octane-2,4-dione
1,3-Cyclopentane dicarboxylic acid (1.6 g., 10 mmole) and 1-(4-aminobutyl)-4-(2-quinolyl)piperazine (2.8 g., 10 mmole) were combined in 200 ml. of xylene and refluxed for 24 hours with water removal via a Dean-Stark trap. The solvent was then removed in vacuum and the residue redissolved in chloroform and filtered through 75 g. of silica gel. The column was rinsed with 5% ethanol/chloroform and the product-containing fractions were combined and evaporated. The residue was recrystallized from isopropanol with the addition of 4N isopropanolic HCl to give 820 mg. of the title compound as the dihydrochloride hemihydrate; m.p. 240°-242° C.

reactant | 1,3-Cyclopentane dicarboxylic acid | 10 mmole, 1.6 g | C1(CC(CC1)C(=O)O)C(=O)O | C7H10O4
reactant | 1-(4-aminobutyl)-4-(2-quinolyl)piperazine | 10 mmole, 2.8 g | NCCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C17H24N4
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 3-[4-[4-(2-Quinolyl)-1-piperazinyl]butyl]-3-azabicyclo[3.2.1]octane-2,4-dione | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CCCCN1C(C2CCC(C1=O)C2)=O | C24H30N4O2
